### PR TITLE
[Merged by Bors] - refactor(AlgebraicGeometry/EllipticCurve/*): add `WeierstrassCurve.IsElliptic` and remove `EllipticCurve`

### PR DESCRIPTION
**Pull request by acmepjz**
The original `EllipticCurve` is `WeierstrassCurve` bundled with `Δ' : Rˣ` and a proof that `Δ' = Δ`. This definition makes `Δ'` and `j` computable, but at the expense that some APIs must be duplicated for `EllipticCurve` and `WeierstrassCurve`.

This PR adds the typeclass `WeierstrassCurve.IsElliptic` which asserts that `IsUnit W.Δ`, and which is a `Prop`. The old API for elliptic curves are replaced by a `WeierstrassCurve` `W` together with `[W.IsElliptic]`. The caveat is that `Δ'` and `j` becomes noncomputable.

The original design of this PR is `WeierstrassCurve.Elliptic` which is `Invertible W.Δ`, and which is a `Type`. By this design `Δ'` and `j` remain computable. But this design makes simpNF linter timeout. So this design is abandoned and replaced by current design.

Also rename `J.lean` -> `IsomOfJ.lean` and split `ModelsWithJ.lean`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

Discussions:

https://leanprover.zulipchat.com/#narrow/channel/116395-maths/topic/thoughts.20on.20elliptic.20curves/near/432354438

https://leanprover.zulipchat.com/#narrow/channel/116395-maths/topic/thoughts.20on.20elliptic.20curves/near/473423362

### CODE REVIEW

**Comment by acmepjz** [comment]
I've tested that `Elliptic : Type` -> `IsElliptic : Prop` and which eliminates the mysterious timeout error. At the expense that `Δ'` and `j` being noncomputable...

Note that the `IsInvertible` instance is still used, which contains data... Next step maybe we want to replaced them by `IsUnit` which contains no data, but for now `IsUnit` is not an instance... so I think this is related to #17458 ...

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean [hunk 1]
```diff
@@ -531,117 +522,144 @@ section ModelsWithJ
 
 variable (R)
 
-/-- When 3 is invertible, $Y^2 + Y = X^3$ is an elliptic curve.
-It is of j-invariant 0 (see `EllipticCurve.ofJ0_j`). -/
-def ofJ0 [Invertible (3 : R)] : EllipticCurve R :=
-  have := invertibleNeg (3 ^ 3 : R)
-  ⟨WeierstrassCurve.ofJ0 R, unitOfInvertible (-3 ^ 3 : R),
-    by rw [val_unitOfInvertible, WeierstrassCurve.ofJ0_Δ R]; norm_num1⟩
+-- TODO: change to `[IsUnit ...]` once #17458 is merged
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:525]: Shall we wait until #17458 is merged before continuing on this PR?

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean [hunk 2]
```diff
@@ -531,117 +522,144 @@ section ModelsWithJ
...
+def ofJ : WeierstrassCurve F :=
+  if j = 0 then
+    if (3 : F) = 0 then
+      ofJ1728 F
+    else
+      ofJ0 F
+  else if j = 1728 then
+    ofJ1728 F
+  else
+    ofJNe0Or1728 j
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:585]: These and the lemmas below can be stated in fewer lines, since we no longer need `invertibleOfNonzero`.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean [hunk 3]
```diff
@@ -531,117 +522,144 @@ section ModelsWithJ
...
+      haveI := NeZero.mk h2
+      haveI := Fact.mk h2.isUnit
+      simp_rw [h1728, ofJ_1728_of_two_ne_zero, ofJ1728_j]
+    · haveI := Fact.mk (Ne.isUnit h0)
+      haveI := Fact.mk (sub_ne_zero.2 h1728).isUnit
+      simp_rw [ofJ_ne_0_ne_1728 j h0 h1728, ofJNe0Or1728_j]
 
-instance instInhabitedEllipticCurve : Inhabited <| EllipticCurve F :=
-  ⟨ofJ 37⟩
+instance instInhabitedIsElliptic : Inhabited { W : WeierstrassCurve F // W.IsElliptic } :=
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:660]: Ditto as above:
```suggestion
instance : Inhabited { W : WeierstrassCurve F // W.IsElliptic } :=
```

**Review by Multramate — COMMENTED** [review]
Thanks - this is wonderful and very welcome! I added a few comments and will continue with the reviews once I have more time in a few days.

One overarching question: do we want to stick with the variable `W : WeierstrassCurve` when we have `[W.IsElliptic]`? Should we instead use `E : WeierstrassCurve`?

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine.lean [hunk 4]
```diff
@@ -14,7 +14,7 @@ This file defines the type of points on a Weierstrass curve as an inductive, con
 at infinity and affine points satisfying a Weierstrass equation with a nonsingular condition. This
 file also defines the negation and addition operations of the group law for this type, and proves
 that they respect the Weierstrass equation and the nonsingular condition. The fact that they form an
-abelian group is proven in `Mathlib.AlgebraicGeometry.EllipticCurve.Group`.
+abelian group is proven in `Mathlib/AlgebraicGeometry/EllipticCurve/Group.lean`.
```
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Affine.lean:17]: Please note that `Mathlib.AlgebraicGeometry.EllipticCurve.Group` is not working in this case; see https://leanprover-community.github.io/mathlib4_docs/Mathlib/AlgebraicGeometry/EllipticCurve/Affine.html .

> can you do the same for lines 14-15 in `Group.lean`?

Sure.

[the remark this answers is not in the document]
Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Affine.lean:17]: Yeah, I am very aware of this annoying bug in the docs! Do you have any idea why?

[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Affine.lean:17]: According to https://github.com/leanprover/doc-gen4/blob/b6ae1cf11e83d972ffa363f9cdc8a2f89aaa24dc/DocGen4/Output/DocString.lean#L68-L100 the only correct way to reference file is write its filename, otherwise I don't expect it works (seems that it works in some cases, but I think it only works if the file referenced is already `import`ed by current file), since there is no symbol named `Mathlib.AlgebraicGeometry.EllipticCurve.Group`...

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean [hunk 5]
```diff
@@ -344,14 +341,17 @@ lemma twoTorsionPolynomial_disc_of_char_three : W.twoTorsionPolynomial.disc = W.
...
+-- TODO: change to `[IsUnit ...]` once #17458 is merged
+lemma twoTorsionPolynomial_disc_isUnit (hu : IsUnit (2 : R)) :
     IsUnit W.twoTorsionPolynomial.disc ↔ IsUnit W.Δ := by
   rw [twoTorsionPolynomial_disc, IsUnit.mul_iff, show (16 : R) = 2 ^ 4 by norm_num1]
-  exact and_iff_right <| isUnit_of_invertible <| 2 ^ 4
+  exact and_iff_right <| hu.pow 4
 
-lemma twoTorsionPolynomial_disc_ne_zero [Nontrivial R] [Invertible (2 : R)] (hΔ : IsUnit W.Δ) :
+-- TODO: change to `[IsUnit ...]` once #17458 is merged
+-- TODO: In this case `IsUnit W.Δ` is just `W.IsElliptic`, consider removing/rephrasing this result
```
[the remark this answers is not in the document]
Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:351]: Yeah, that's fine too.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean (hunk 2 above)
Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:584]: Yeah that's what I'm thinking. The statements of the other lemmas can each be one line.

Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean]: Done.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine.lean (hunk 4 above)
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Affine.lean:17]: > can you do the same for lines 14-15 in `Group.lean`?

The line break in that file is too tight. 🤦‍♂️ Since it's working, I'll not change them.

[the remark this answers is not in the document]
Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Affine.lean:17]: I think this works?
```
under the geometric group law defined in `Mathlib.AlgebraicGeometry/EllipticCurve/Affine.lean` and
in `Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean`.
```

[the remark this answers is not in the document]
Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Affine.lean:17]: In any case, I guess don't worry too much about it because they will all be refactored eventually (hopefully soon).

**Comment by acmepjz** [comment]
> One overarching question: do we want to stick with the variable `W : WeierstrassCurve` when we have `[W.IsElliptic]`? Should we instead use `E : WeierstrassCurve`?

It doesn't matter for me. Mostly because that's just one `W : WeierstrassCurve` across whole file, and in some sections there are `variable [W.IsElliptic]`. If in the beginning it's required to be `IsElliptic`, then I think it's fine to use `E` instead (e.g. in `J.lean`).

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean (hunk 1 above)
Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:529]: Sorry, I just got back to this. Once that is merged, the suggestions I have below will be drastically different.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean [hunk 6]
```diff
@@ -532,117 +526,127 @@ section ModelsWithJ
...
-lemma ofJ_1728_of_two_ne_zero [h2 : NeZero (2 : F)] :
-    ofJ 1728 = @ofJ1728 _ _ (invertibleOfNonzero h2.out) := by
+with j-invariant equal to j (see `WeierstrassCurve.ofJ_j`).
+Its coefficients are given explicitly (see `WeierstrassCurve.ofJ0`, `WeierstrassCurve.ofJ1728`
+and `WeierstrassCurve.ofJNe0Or1728`). -/
+def ofJ : WeierstrassCurve F :=
+  if j = 0 then if (3 : F) = 0 then ofJ1728 F else ofJ0 F
+  else if j = 1728 then ofJ1728 F else ofJNe0Or1728 j
+
+lemma ofJ_0_of_three_ne_zero [h3 : NeZero (3 : F)] : ofJ 0 = ofJ0 F := by
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:584]: Should we use `(h3 : (3 : F) ≠ 0)` instead? I don't quite remember why we did this instead.

Otherwise, we can also make the assumptions below `[CharP F 3]` etc, but we should be consistent.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean [hunk 7]
```diff
@@ -532,117 +526,127 @@ section ModelsWithJ
...
+  rw [ofJ, if_pos rfl, if_neg h3.out]
+
+lemma ofJ_0_of_three_eq_zero (h3 : (3 : F) = 0) : ofJ 0 = ofJ1728 F := by
+  rw [ofJ, if_pos rfl, if_pos h3]
+
+lemma ofJ_0_of_two_eq_zero (h2 : (2 : F) = 0) : ofJ 0 = ofJ0 F := by
+  rw [ofJ, if_pos rfl, if_neg ((show (3 : F) = 1 by linear_combination h2) ▸ one_ne_zero)]
+
+lemma ofJ_1728_of_three_eq_zero (h3 : (3 : F) = 0) : ofJ 1728 = ofJ1728 F := by
+  rw [ofJ, if_pos (show (1728 : F) = 0 by linear_combination 576 * h3), if_pos h3]
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:594]:
```suggestion
  rw [ofJ, if_pos <| by linear_combination 576 * h3, if_pos h3]
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean [hunk 8]
```diff
@@ -532,117 +526,127 @@ section ModelsWithJ
...
+lemma ofJ_1728_of_two_ne_zero [h2 : NeZero (2 : F)] : ofJ 1728 = ofJ1728 F := by
   by_cases h3 : (3 : F) = 0
-  · exact ofJ_1728_of_three_eq_zero h3
-  · have h : (1728 : F) ≠ 0 := fun h => or_iff_not_and_not.mp
-      (mul_eq_zero.mp <| by rwa [show 2 ^ 6 * 3 ^ 3 = (1728 : F) by norm_num1])
-      ⟨pow_ne_zero 6 h2.out, pow_ne_zero 3 h3⟩
-    rw [ofJ, dif_neg h, dif_pos rfl]
+  · rw [ofJ, if_pos (show (1728 : F) = 0 by linear_combination 576 * h3), if_pos h3]
+  · rw [ofJ, if_neg ((show 2 ^ 6 * 3 ^ 3 = (1728 : F) by norm_num1) ▸ mul_ne_zero
+      (pow_ne_zero 6 h2.out) (pow_ne_zero 3 h3)), if_pos rfl]
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:600]:
```suggestion
  · exact ofJ_1728_of_three_eq_zero h3
  · rw [ofJ, show (1728 : F) = 2 ^ 6 * 3 ^ 3 by norm_num1,
      if_neg <| mul_ne_zero (pow_ne_zero 6 h2.out) (pow_ne_zero 3 h3), if_pos rfl]
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean [hunk 9]
```diff
@@ -532,117 +526,127 @@ section ModelsWithJ
...
 
-lemma ofJ_1728_of_two_eq_zero (h2 : (2 : F) = 0) :
-    ofJ 1728 = @ofJ0 _ _ (invertibleOfNonzero <| two_or_three_ne_zero.neg_resolve_left h2) := by
-  rw [ofJ, dif_pos <| by rw [show (1728 : F) = 2 * 864 by norm_num1, h2, zero_mul], dif_neg]
+lemma ofJ_1728_of_two_eq_zero (h2 : (2 : F) = 0) : ofJ 1728 = ofJ0 F := by
+  rw [ofJ, if_pos (show (1728 : F) = 0 by linear_combination 864 * h2),
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:603]:
```suggestion
  rw [ofJ, if_pos <| by linear_combination 864 * h2,
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean [hunk 10]
```diff
@@ -532,117 +526,127 @@ section ModelsWithJ
...
-lemma ofJ_ne_0_ne_1728 (h0 : j ≠ 0) (h1728 : j ≠ 1728) : ofJ j =
-    @ofJ' _ _ j (invertibleOfNonzero h0) (invertibleOfNonzero <| sub_ne_zero_of_ne h1728) := by
-  rw [ofJ, dif_neg h0, dif_neg h1728]
+lemma ofJ_ne_0_ne_1728 (h0 : j ≠ 0) (h1728 : j ≠ 1728) : ofJ j = ofJNe0Or1728 j := by
+  rw [ofJ, if_neg h0, if_neg h1728]
+
+instance : (ofJ j).IsElliptic := by
+  by_cases h0 : j = 0
+  · by_cases h3 : (3 : F) = 0
+    · haveI := Fact.mk (isUnit_of_mul_eq_one (2 : F) 2 (by linear_combination h3))
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:612]: All the `haveI` can be replaced by `have`. Once we replace `Fact (IsUnit ...)` with `IsUnit ...`, and once we decide on whether to remove `NeZero`, most of these should be a lot cleaner to prove.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean [hunk 11]
```diff
@@ -390,77 +390,74 @@ variable {R} (j : R)
...
-    exact Units.ext (by rw [x3, y3, h])
-
-@[ext]
-theorem ext {x y : EllipticCurve R} (h₁ : x.a₁ = y.a₁) (h₂ : x.a₂ = y.a₂) (h₃ : x.a₃ = y.a₃)
-    (h₄ : x.a₄ = y.a₄) (h₆ : x.a₆ = y.a₆) : x = y :=
-  toWeierstrassCurve_injective (WeierstrassCurve.ext h₁ h₂ h₃ h₄ h₆)
+/-- The discriminant `Δ'` of an elliptic curve over `R`, which is given as a unit in `R`.
+Note that to prove two equal elliptic curves have the same `Δ'`, you need to use `simp_rw`,
+as `rw` cannot transfer instance `WeierstrassCurve.IsElliptic` automatically. -/
+noncomputable def Δ' : Rˣ := W.isUnit_Δ.unit
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:423]: With the prime linter, I think we should try to rename this? What do you think of calling one of them `disc`, and keep the other one `Δ`? The one that's used more often should be `Δ`, but I'm not sure which.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean [hunk 12]
```diff
@@ -32,23 +32,20 @@ splitting field of `R` are precisely the $X$-coordinates of the non-zero 2-torsi
...
- * `WeierstrassCurve.ofJ`: a Weierstrass curve whose j-invariant is neither 0 nor 1728.
  * `WeierstrassCurve.map`: the Weierstrass curve mapped over a ring homomorphism.
  * `WeierstrassCurve.twoTorsionPolynomial`: the 2-torsion polynomial of a Weierstrass curve.
- * `EllipticCurve`: an elliptic curve over a commutative ring.
- * `EllipticCurve.j`: the j-invariant of an elliptic curve.
- * `EllipticCurve.ofJ0`: an elliptic curve whose j-invariant is 0.
- * `EllipticCurve.ofJ1728`: an elliptic curve whose j-invariant is 1728.
- * `EllipticCurve.ofJ'`: an elliptic curve whose j-invariant is neither 0 nor 1728.
- * `EllipticCurve.ofJ`: an elliptic curve whose j-invariant equal to j.
+ * `WeierstrassCurve.IsElliptic`: typeclass asserts that a Weierstrass curve is an elliptic curve.
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:37]:
```suggestion
 * `WeierstrassCurve.IsElliptic`: typeclass asserting that a Weierstrass curve is an elliptic curve.
```

**Review by Multramate — COMMENTED** [review]
I wasn't aware of the existence of `J.lean`, so I'll mostly comment on `Weierstrass.lean`.

Do you think it could be better to move everything in `ModelsWithJ` there?

**Comment by acmepjz** [comment]
> I wasn't aware of the existence of `J.lean`

It's introduced in #17431.

> Do you think it could be better to move everything in `ModelsWithJ` there?

Note that that file imports `Mathlib.FieldTheory.IsSepClosed` as well as `Mathlib.AlgebraicGeometry.EllipticCurve.NormalForms`, which is not needed by `ModelsWithJ`.

Originally the `ModelsWithJ` is introduced to generalize `Inhabited (EllipticCurve Rat)` to any field. The original result is in `Weierstrass` so the `ModelsWithJ` is also in `Weierstrass`. But now since we don't have `EllipticCurve` anymore, so I think it's OK to move them to another file. Probably a new file `ModelsWithJ.lean` but not `J.lean`.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean (hunk 11 above)
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:423]: I don't know. Maybe we should leave this for another PR. Changing `Δ'` to something else requires altering some of existing code using `Δ'`.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean (hunk 6 above)
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:584]: > Should we use `(h3 : (3 : F) ≠ 0)` instead? I don't quite remember why we did this instead.

It's here https://github.com/leanprover-community/mathlib4/pull/5935#discussion_r1280637704

I think it's OK to revert to `(h3 : (3 : F) ≠ 0)` since otherwise it looks like that we are abusing instances.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean (hunk 10 above)
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:612]: I just get used to write `haveI` for instances instead of `have`. Anyways, I'll change them.

**Comment by acmepjz** [comment]
Done for most suggestions.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean (hunk 11 above)
Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:423]: Sure!

**Review by Multramate — APPROVED** [review]
Minor comments but I'm mostly happy with this. I'm not familiar with `J.lean` so I don't have anything to say. I guess my main question is: why the need to separate the single result of `J.lean` into a different file? I feel that `FieldTheory/IsSepClosed` is not too large of a dependency (perhaps comparable to `Algebra/CharP` and `RingTheory/Nilpotent` in `Weierstrass.lean`?). If the issue is the length of the file, then I can understand :P

@jcommelin back to you!

File: Mathlib/AlgebraicGeometry/EllipticCurve/VariableChange.lean [hunk 13]
```diff
@@ -47,7 +45,10 @@ section VariableChange
 
 /-- An admissible linear change of variables of Weierstrass curves defined over a ring `R` given by
 a tuple $(u, r, s, t)$ for some $u \in R^\times$ and some $r, s, t \in R$. As a matrix, it is
-$\begin{pmatrix} u^2 & 0 & r \cr u^2s & u^3 & t \cr 0 & 0 & 1 \end{pmatrix}$. -/
+$\begin{pmatrix} u^2 & 0 & r \cr u^2s & u^3 & t \cr 0 & 0 & 1 \end{pmatrix}$.
+On Weierstrass equation, it is
+$(X, Y) \mapsto (u^2X + r, u^3Y + u^2sX + t)$.
```
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/VariableChange.lean:50]: For humans this is easier to understand than the matrix multiplication?

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean [hunk 14]
```diff
@@ -390,77 +390,74 @@ variable {R} (j : R)
...
+/-- `WeierstrassCurve.IsElliptic` is a typeclass which asserts that a Weierstrass curve is an
+elliptic curve: that its discriminant is a unit. Note that this definition is only mathematically
 accurate for certain rings whose Picard group has trivial 12-torsion, such as a field or a PID. -/
-structure EllipticCurve (R : Type u) [CommRing R] extends WeierstrassCurve R where
-  /-- The discriminant `Δ'` of an elliptic curve over `R`, which is given as a unit in `R`. -/
-  Δ' : Rˣ
-  /-- The discriminant of `E` is equal to the discriminant of `E` as a Weierstrass curve. -/
-  coe_Δ' : Δ' = toWeierstrassCurve.Δ
+@[mk_iff]
+protected class IsElliptic : Prop where
```
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:413]: > I always thought that's mainly for name clashes.

Yes, I'm afraid that sometimes later we will have `PDE.IsElliptic`...

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean [hunk 15]
```diff
@@ -532,117 +526,123 @@ section ModelsWithJ
...
+  rw [isElliptic_iff, ofJ1728_Δ R]
+  convert (hu.out.pow 6).neg
+  norm_num1
 
-lemma ofJ1728_j [Invertible (2 : R)] : (ofJ1728 R).j = 1728 := by
-  field_simp [j, ofJ1728, @val_unitOfInvertible _ _ _ <| invertibleNeg _,
-    WeierstrassCurve.ofJ1728_c₄]
+-- TODO: change to `[IsUnit ...]` once #17458 is merged
+lemma ofJ1728_j [Fact (IsUnit (2 : R))] : (ofJ1728 R).j = 1728 := by
+  field_simp [j, ofJ1728_c₄, ofJ1728_Δ]
```
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:552]: Good idea since there are debates on `field_simp`.

File: Mathlib/AlgebraicGeometry/EllipticCurve/VariableChange.lean (hunk 13 above)
[the remark this answers is not in the document]
Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/VariableChange.lean:51]: Right, then it should probably say something like:
```
In other words, this is the change of variables $(X, Y) \mapsto (u^2X + r, u^3Y + u^2sX + t)$.
```
or something else that fits in one line. It's implicit we're working with Weierstrass equations.

**Comment by Multramate** [comment]
> Anyways the file name `J.lean` maybe not the best, do you think `IsomOfJEq` or something else is better?

Yeah, that sounds better than `J.lean`. Maybe `IsomOfJ.lean` is clear enough.

**Review by jcommelin — COMMENTED** [review]
@Multramate Thanks for the reviews!

@acmepjz Thanks for the PR!

bors merge
